US04772587
(a) H-Ala-Pro-OMe
Instead of Z-Ala-OH, (a) Z-Val-OH, (b) Z-Leu-OH, (c) Z-Phe-OH, (d) Z-Met-OH and (e) Z-norLeu-OH were used as starting compounds to obtain (a') H-Val-Pro-OMe, (b') H-Leu-Pro-OH, (c') H-Phe-Pro-OH, (d') H-Met-Pro-OMe and (e') H-norLeu-Pro-OMe as oils, respectively.

reactant | H-Leu-Pro-OH | N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)O)CCC1 | C11H20N2O3
reactant | H-Phe-Pro-OH | N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1 | C14H18N2O3
reactant | H-Met-Pro-OMe | N[C@@H](CCSC)C(=O)N1[C@H](C(=O)OC)CCC1 | C11H20N2O3S
reactant | H-norLeu-Pro-OMe | N[C@@H](CCCC)C(=O)N1[C@H](C(=O)OC)CCC1 | C12H22N2O3
product | H-Ala-Pro-OMe | N[C@@H](C)C(=O)N1[C@H](C(=O)OC)CCC1 | C9H16N2O3
